### PR TITLE
[Merged by Bors] - feat(Mathlib/Order/SuccPred/Limit): more `WithTop` lemmas about `IsMin`/`CovBy`/`IsSuccLimit`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
Continues the work from #38244

We should probably also have such lemmas for `WithTopBot`/`WithBotTop`, but that's for another day

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Cover.lean [hunk 1]
```diff
@@ -741,24 +745,22 @@ namespace WithTop
...
-  Set.OrdConnected.apply_wcovBy_apply_iff WithTop.coeOrderHom <| by
-    simp [WithTop.range_coe, ordConnected_Iio]
+lemma coe_wcovBy_coe : (a : WithTop α) ⩿ b ↔ a ⩿ b := by
+  simp [WCovBy, WithTop.forall]
 
 @[to_dual (attr := simp, norm_cast)]
-lemma coe_covBy_coe : (a : WithTop α) ⋖ b ↔ a ⋖ b :=
-  Set.OrdConnected.apply_covBy_apply_iff WithTop.coeOrderHom <| by
-    simp [WithTop.range_coe, ordConnected_Iio]
+lemma coe_covBy_coe {α} [LT α] {a b : α} : (a : WithTop α) ⋖ b ↔ a ⋖ b := by
```
Comment (vihdzp) [inline Mathlib/Order/Cover.lean]: Maybe these theorems that only assume `LT` should be moved to an earlier section?

File: Mathlib/Order/Cover.lean [hunk 2]
```diff
@@ -288,6 +288,10 @@ theorem wcovBy_iff_covBy_or_le_and_le : a ⩿ b ↔ a ⋖ b ∨ a ≤ b ∧ b 
 @[to_dual self]
 alias ⟨WCovBy.covBy_or_le_and_le, _⟩ := wcovBy_iff_covBy_or_le_and_le
 
+@[to_dual (attr := simp) wcovBy_bot_iff]
+theorem top_wcovBy_iff [OrderTop α] {a : α} : ⊤ ⩿ a ↔ ⊤ ≤ a := by
```
Comment (vihdzp) [inline Mathlib/Order/Cover.lean:294]: Presumably the RHS should be an equality?

Comment (SnirBroshi) [reply Mathlib/Order/Cover.lean:294]: That's only true in a `PartialOrder`, but then `top_le_iff` is tagged `simp` so `simp` will take care of combining the two lemmas.

File: Mathlib/Order/SuccPred/Limit.lean [hunk 3]
```diff
@@ -212,33 +212,45 @@ strictly between `i` and `j`. -/]
...
+    IsSuccPrelimit (x : WithTop α) ↔ IsSuccPrelimit x := by
+  simp [IsSuccPrelimit, WithTop.forall]
 
 @[to_dual]
-theorem IsSuccPrelimit.withTopCoe {x : α} (h : IsSuccPrelimit x) :
-    IsSuccPrelimit (x : WithTop α) := by
-  simpa [IsSuccPrelimit, WithTop.forall]
+theorem IsSuccPrelimit.withTopCoe {α} [LT α] {x : α} (h : IsSuccPrelimit x) :
+    IsSuccPrelimit (x : WithTop α) :=
+  WithTop.isSuccPrelimit_coe_iff.mpr h
```
Comment (Vierkantor) [inline Mathlib/Order/SuccPred/Limit.lean]: Since this is just the right-to-left direction, we can use `alias` and save us some work:
```suggestion
alias ⟨_, IsSuccPrelimit.withTopCoe⟩ := WithTop.isSuccPrelimit_coe_iff
```

The name is a bit surprising, it looks more like a definition, but I suppose it's not worth changing in this PR, nor would I know a better name.

File: Mathlib/Order/SuccPred/Limit.lean [hunk 4]
```diff
@@ -212,33 +212,45 @@ strictly between `i` and `j`. -/]
...
+theorem _root_.WithTop.isSuccLimit_coe_iff {x : α} :
+    IsSuccLimit (x : WithTop α) ↔ IsSuccLimit x := by
+  simp [isSuccLimit_iff]
 
 @[to_dual]
 theorem IsSuccLimit.withTopCoe {x : α} (h : IsSuccLimit x) :
-    IsSuccLimit (x : WithTop α) := by
-  simpa [isSuccLimit_iff, WithTop.exists, h.isSuccPrelimit.withTopCoe] using h.not_isMin
+    IsSuccLimit (x : WithTop α) :=
+  WithTop.isSuccLimit_coe_iff.mpr h
```
Comment (Vierkantor) [inline Mathlib/Order/SuccPred/Limit.lean]: This can also be an `alias` (but GitHub doesn't allow me to make this suggestion).

File: Mathlib/Order/SuccPred/Limit.lean [hunk 5]
```diff
@@ -252,9 +264,19 @@ theorem _root_.WithTop.isPredPrelimit_iff {x : WithTop α} :
...
+@[to_dual (attr := simp)]
+theorem _root_.WithTop.isPredLimit_coe_iff {x : α} :
+    IsPredLimit (x : WithTop α) ↔ IsPredLimit x := by
+  simp [WithTop.isPredPrelimit_iff, isPredLimit_iff, WithTop.exists]
+
 @[to_dual]
-theorem IsPredLimit.withTopCoe {x : α} (h : IsPredLimit x) : IsPredLimit (x : WithTop α) := by
-  simpa [WithTop.isPredPrelimit_iff, isPredLimit_iff, WithTop.exists] using h
+theorem IsPredLimit.withTopCoe {x : α} (h : IsPredLimit x) : IsPredLimit (x : WithTop α) :=
+  WithTop.isPredLimit_coe_iff.mpr h
```
Comment (Vierkantor) [inline Mathlib/Order/SuccPred/Limit.lean]:
```suggestion
alias ⟨_, IsPredLimit.withTopCoe⟩ := WithTop.isPredLimit_coe_iff
```

File: Mathlib/Order/Cover.lean [hunk 6]
```diff
@@ -732,27 +736,46 @@ end Pi
...
-lemma coe_wcovBy_coe : (a : WithTop α) ⩿ b ↔ a ⩿ b :=
-  Set.OrdConnected.apply_wcovBy_apply_iff WithTop.coeOrderHom <| by
-    simp [WithTop.range_coe, ordConnected_Iio]
+lemma coe_covBy_coe : (a : WithTop α) ⋖ b ↔ a ⋖ b := by
+  simp [CovBy, WithTop.forall]
+
+@[to_dual (attr := simp) not_bot_covBy]
+theorem not_covBy_top [NoMaxOrder α] {a : WithTop α} : ¬ a ⋖ ⊤ := by
+  unfold CovBy
+  push Not
```
Comment (Vierkantor) [inline Mathlib/Order/Cover.lean]: These two steps seem like they'd give a useful lemma, `not_wCovBy : ¬ a ⋖ b ↔ (a < b → ∃ c, a < c ∧ c < b)`.

**Review by Vierkantor — COMMENTED** [review]
Thanks for the PR! What is the motivation: simply filling out API or do you have a specific goal in mind?

**Comment by SnirBroshi** [comment]
I needed API for succ limits in `ENat` for #33501, which led to [#Is there code for X? > WithTop succ limits](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/WithTop.20succ.20limits/with/586325215) and then #38244, and this fills out more of the API.

I often find myself needing such "casting" lemmas for predicates, e.g. we're also missing them for `IsLowerSet` and `IsCompactElement` which I'll probably PR soon.

File: Mathlib/Order/SuccPred/Limit.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/Order/SuccPred/Limit.lean]: Good catch! This was written before `to_dual` supported `alias`es

The name fits the convention of adding the namespace when appropriate, and this is about `WithTop.coe`, but I agree it looks strange 😅

File: Mathlib/Order/Cover.lean (hunk 6 above)
Comment (SnirBroshi) [reply Mathlib/Order/Cover.lean]: There's already a `not_covBy` and `not_covBy_iff`, but the first is about `DenselyOrdered` so I renamed it to `not_covBy_of_denselyOrdered` and took its place

**Review by Vierkantor — APPROVED** [review]
Thanks! :tada:

bors r+
